US06787539B2
A suspension of 1.62 g (6.5 mmol) 4-hydroxy-[2,2′]bipyrimidinyl-5-carboxylic acid ethyl ester in 16 ml POCl3 was heated at reflux for lh. The solution was cooled to RT and poured into 100 ml ice-water. The pH of the solution was adjusted to 8 with sat. NaHCO3-solution. The water phase was extracted three times with 80 ml CH2Cl2. The combined organic phases were dried (Na2SO4), filtered and evaporated. The residue was purified by chromatography (SiO2, CH2Cl2/MeOH 95:5) to give 1.43 g (82%) 4-chloro-[2,2′]bipyrimidinyl-5-carboxylic acid ethyl ester as a light brown solid, MS (EI): 264.1 (M+).

reactant | 4-hydroxy-[2,2′]bipyrimidinyl-5-carboxylic acid ethyl ester | 6.5 mmol, 1.62 g | C(C)OC(=O)C=1C(=NC(=NC1)C1=NC=CC=N1)O | C11H10N4O3
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | POCl3 | 16 ml | O=P(Cl)(Cl)Cl | Cl3OP
product | 4-chloro-[2,2′]bipyrimidinyl-5-carboxylic acid ethyl ester | 1.43 g, 82% | C(C)OC(=O)C=1C(=NC(=NC1)C1=NC=CC=N1)Cl | C11H9ClN4O2
